US07582773B2
Step 6: Synthesis of 9-Benzyl-6-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-2,3,4,9-tetrahydro-1H-carbazole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(9-benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetonitrile (0.357 g, 0.910 mmol) was reacted with NaN3 (0.296 g, 4.548 mmol) and NH4Cl (0.243 g, 4.548 mmol) in DMF (10 ml) to give the product (0.329 g, 0.755 mmol, 83%) as a white solid, dec. 228-230° C. 1H NMR (DMSO-d6) δ 1.79-1.85 (m, 4H), 2.64-2.71 (m, 4H), 5.33 (s, 2H), 5.50 (s, 2H), 7.03 (d, J=7.6 Hz, 2H), 7.11 (d, J=8.7 Hz, 2H), 7.21 (t, J=7.2 Hz, 1H), 7.27-7.30 (m, 3H), 7.39 (d, J=8.6 Hz, 1H), 7.59-7.61 (m, 3H), 16.80 (broad s, 1H); IR (solid) 3030, 2920, 2590, 1520, 1470 and 1240 cm−1; [ESI(+)], m/z 436 (M+H)+; Anal. Calcd. for C27H25N5O: C, 74.46; H, 5.79; N, 16.08; Found: C, 74.34; H, 5.46; N, 16.26.

reactant | [4-(9-benzyl-6,7,8,9-tetrahydro-5H-carbazol-3-yl)-phenoxy]-acetonitrile | 0.910 mmol, 0.357 g | C(C1=CC=CC=C1)N1C=2CCCCC2C=2C=C(C=CC12)C1=CC=C(OCC#N)C=C1 | C27H24N2O
reactant | NaN3 | 4.548 mmol, 0.296 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 4.548 mmol, 0.243 g | [NH4+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 9-Benzyl-6-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-2,3,4,9-tetrahydro-1H-carbazole | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2CCCCC12)C1=CC=C(C=C1)OCC1=NN=NN1 | C27H25N5O
